* measurement examples with evaluating an expression 0.9*v(2)
* transient simulation of two sine signals with different frequencies

vac1   1 0 DC 0  sin(0 1   1.0k 0 0)
vac2   2 0 DC 0  sin(0 1.2 0.9k 0 0)

.tran  10u 5m

** evaluate '0.9*v(2)' in dot command
.measure tran yeval1 FIND v(2) WHEN v(1)=par('0.9*v(2)')

.control
run
** evaluate '0.9*v(2)' in control language command
let vint = 0.9*v(2)
meas tran yeval2 FIND v(2) WHEN v(1)= vint
plot V(1) v(2)
.endc

.end
