.TITLE SUBCKT VECTOR PARAM TEST
* Example of passing a vector parameter to a sub-circuit.
* Modified from https://sourceforge.net/p/ngspice/feature-requests/55/

* An AND gate impmented as a LUT in a subcircuit.

.param default_vec="[1e-12 2e-12]"
                                    *--vector parameter--
.subckt testcir in0 in1 outlut testpar = {default_vec}

A_genlut [in0 in1] [outlut] genlut
.model genlut d_genlut (
+ input_delay  = {testpar}
+ table_values = "0001")

.ends testcir

V_Vss vss 0 DC 3.3
V_pulse sine 0 DC 0 SIN(0 1 1000)

.param actual_vec="[1.3e-3 2e-3]"
                                    *--vector parameter--
X_subckt no1 dss node3 testcir testpar={actual_vec}

A_ADC [sine vss] [no1 dss] ADC
.model ADC adc_bridge(in_low=0.7 in_high=0.71)

.control
  tran 20u 4m
  plot sine node3
.endc

.end
