Test Optimos PSPICE models
* compatibility mode psa is required

*Xopt Nvd Nvg Nvs Tj Tcase SPD50N03S2-07  dVth=0 dRdson=0 dgfs=0 dC=0 Zthtype=0
*Xopt Nvd Nvg Nvs Tj Tcase SPD30N03S2L-10  dVth=0 dRdson=0 dgfs=0 dC=0 Zthtype=0
Xopt Nvd Nvg Nvs Tj Tcase BSC0500NSI dVth=0 dRdson=0 dgfs=0 dC=0 Zthtype=0 Ls=0.3n Ld=1n Lg=3n

vd 1 0 0
rd 1 Nvd 6m
vg Nvg 0 0
vs Nvs 0 0

vtc tcase 0 25
vjt tj 0 25

* the library may be downloaded from https://www.infineon.com/cms/en/product/promopages/power-mosfet-simulation-models/?redirId=56389#low-voltage-simulation-models-00001
.include OptiMOS5_30V_PSpice.lib

.control
dc vd 0 3 0.1 vg 2.8 3.2 0.2
dc vd 0 3 0.1 vg 3.5 5 0.5
* plot similar to output characteristics in data sheet
plot vs#branch vs v(Nvd) dc1.vs#branch vs dc1.v(Nvd)
.endc

.end
