*  ADDER - 4 BIT ALL-NAND-GATE BINARY ADDER

*** SUBCIRCUIT DEFINITIONS
.SUBCKT NAND in1 in2 out VDD
*   NODES:  INPUT(2), OUTPUT, VCC
M1 out in2 Vdd Vdd p1 W=3u L=1u
M2 net.1 in2 0 0 n1 W=3u L=2u
M3 out in1 Vdd Vdd p1 W=3u L=1u
M4 out in1 net.1 0 n1 W=3u L=2u
.ENDS NAND

.SUBCKT ONEBIT 1 2 3 4 5 6
*   NODES:  INPUT(2), CARRY-IN, OUTPUT, CARRY-OUT, VCC
X1   1  2  7  6   NAND
X2   1  7  8  6   NAND
X3   2  7  9  6   NAND
X4   8  9 10  6   NAND
X5   3 10 11  6   NAND
X6   3 11 12  6   NAND
X7  10 11 13  6   NAND
X8  12 13  4  6   NAND
X9  11  7  5  6   NAND
.ENDS ONEBIT

.SUBCKT TWOBIT 1 2 3 4 5 6 7 8 9
*   NODES:  INPUT - BIT0(2) / BIT1(2), OUTPUT - BIT0 / BIT1,
*           CARRY-IN, CARRY-OUT, VCC
X1   1  2  7  5 10  9   ONEBIT
X2   3  4 10  6  8  9   ONEBIT
.ENDS TWOBIT

.SUBCKT FOURBIT 1 2 3 4 5 6 7 8 9 10 11 12 13 14 15
*   NODES:  INPUT - BIT0(2) / BIT1(2) / BIT2(2) / BIT3(2),
*           OUTPUT - BIT0 / BIT1 / BIT2 / BIT3, CARRY-IN, CARRY-OUT, VCC
X1   1  2  3  4  9 10 13 16 15   TWOBIT
X2   5  6  7  8 11 12 16 14 15   TWOBIT
.ENDS FOURBIT

*** DEFINE NOMINAL CIRCUIT
VCC   99  0   DC 3.3V
VIN1A  1  0   PULSE(0 3 0 10NS 10NS   10NS   50NS)
VIN1B  2  0   PULSE(0 3 0 10NS 10NS   20NS  100NS)
VIN2A  3  0   PULSE(0 3 0 10NS 10NS   40NS  200NS)
VIN2B  4  0   PULSE(0 3 0 10NS 10NS   80NS  400NS)
VIN3A  5  0   PULSE(0 3 0 10NS 10NS  160NS  800NS)
VIN3B  6  0   PULSE(0 3 0 10NS 10NS  320NS 1600NS)
VIN4A  7  0   PULSE(0 3 0 10NS 10NS  640NS 3200NS)
VIN4B  8  0   PULSE(0 3 0 10NS 10NS 1280NS 6400NS)
X1     1  2  3  4  5  6  7  8  9 10 11 12  0 13 99 FOURBIT
*RBIT0  9  0   100K
*RBIT1 10  0   100K
*RBIT2 11  0   100K
*RBIT3 12  0   100K
*RCOUT 13  0   100K

.TRAN 1NS 1000NS

.model n1 nmos level=8 version=3.3.0
.model p1 pmos level=8 version=3.3.0

.END
