CMOS NIC
*
.subckt osc_cmos ib_osz lc ra vdd vss
m16 ib_osz ib_osz vss vss n1 w=20u l=1u m=8
m15 ra ib_osz vss vss n1 w=20u l=1u m=2
m8 net99 net95 ra ra n1 w=20u l=1u m=2
m1 net95 net95 net93 net93 n1 w=20u l=1u m=2
m25 net99 net99 vdd vdd p1 w=3.3u l=0.5u m=1
m5 net99 net99 vdd vdd p1 w=20u l=1u m=5
m4 net95 net99 vdd vdd p1 w=20u l=1u m=5
r23 net99 vss r=38K
r18 net93 lc r=10
.ends osc_cmos
*
.subckt psens LC
R1 LC P001 40K
L1 LC P002 14.9u
R2 P002 0 0.55
L2 P001 0 1.4m
.ends psens
*
xi36 bias lc ra vdd 0 osc_cmos
v39 vdd 0 dc=3.5 pulse ( 0 3.5 10u 10n 10n 1 2 )
r4 ra 0 3.972K
c23 lc 0 1.8n
i37 vdd bias dc=1u
*
xi18 lc psens
*
.option warn=1
.control
tran 1u 1m 0 50n
plot v(LC)
.endc
*
.include modelcard.nmos
.include modelcard.pmos
*
.end
