.SUBCKT filter 1 2 3 
*2-port S-parameter file
*Title: * simple test for xfer code model: comparison
*Generated by ngspice at Tue May 23 06:49:31  2023
* Hz S RI R
* Z1=50.000000 Z2=50.000000

R1N 1 10 -5.000000e+01
R1P 10 11 1.000000e+02
R2N 2 20 -5.000000e+01
R2P 20 21 1.000000e+02

*S11 FREQ DB PHASE
E11 11 12 FREQ {V(10,3)}= DB
+(  1.000000e+07Hz,  3.654967e-07, -7.619541e+01)
+(  1.487179e+07Hz,  1.964030e-07, -1.157703e+02)
+(  1.974359e+07Hz, -1.084219e-07, -1.569277e+02)
+(  2.461538e+07Hz, -5.321598e-06, -1.985756e+02)
+(  2.948718e+07Hz, -1.265047e-05, -2.395114e+02)
+(  3.435897e+07Hz, -2.727603e-05, -2.792878e+02)
+(  3.923077e+07Hz, -6.620604e-05, -3.184596e+02)
+(  4.410256e+07Hz, -1.624082e-04, -3.582070e+02)
+(  4.897436e+07Hz, -3.755273e-04, -3.996839e+02)
+(  5.384615e+07Hz, -7.725656e-04, -4.432805e+02)
+(  5.871795e+07Hz, -1.320643e-03, -4.881884e+02)
+(  6.358974e+07Hz, -1.599290e-03, -5.330311e+02)
+(  6.846154e+07Hz, -4.631092e-04, -5.776220e+02)
+(  7.333333e+07Hz, -1.388239e-02, -6.262936e+02)
+(  7.820513e+07Hz, -1.245578e+01, -8.015034e+02)
+(  8.307692e+07Hz, -1.142468e+00, -6.888087e+02)
+(  8.794872e+07Hz, -1.292324e+00, -7.542062e+02)
+(  9.282051e+07Hz, -2.163078e+00, -8.283885e+02)
+(  9.769231e+07Hz, -3.764829e+00, -9.213357e+02)
+(  1.025641e+08Hz, -4.165673e+00, -1.041098e+03)
+(  1.074359e+08Hz, -2.143343e+00, -1.139856e+03)
+(  1.123077e+08Hz, -1.084156e+00, -1.201868e+03)
+(  1.171795e+08Hz, -7.962690e-01, -1.249480e+03)
+(  1.220513e+08Hz, -1.204024e+00, -1.318959e+03)
+(  1.269231e+08Hz, -4.148462e-01, -1.169292e+03)
+(  1.317949e+08Hz, -1.026085e-02, -1.240330e+03)
+(  1.366667e+08Hz, -1.360661e-04, -1.265793e+03)
+(  1.415385e+08Hz, -2.410965e-03, -1.281511e+03)
+(  1.464103e+08Hz, -3.787891e-03, -1.293132e+03)
+(  1.512821e+08Hz, -3.602264e-03, -1.302433e+03)
+(  1.561538e+08Hz, -2.547410e-03, -1.310211e+03)
+(  1.610256e+08Hz, -1.530232e-03, -1.316893e+03)
+(  1.658974e+08Hz, -8.667728e-04, -1.322741e+03)
+(  1.707692e+08Hz, -4.905888e-04, -1.327928e+03)
+(  1.756410e+08Hz, -2.840626e-04, -1.332578e+03)
+(  1.805128e+08Hz, -1.688713e-04, -1.336783e+03)
+(  1.853846e+08Hz, -1.041703e-04, -1.340612e+03)
+(  1.902564e+08Hz, -6.546576e-05, -1.344121e+03)
+(  1.951282e+08Hz, -4.228835e-05, -1.347353e+03)
+(  2.000000e+08Hz, -2.867354e-05, -1.350343e+03)

*S12 FREQ DB PHASE
E12 12 3 FREQ {V(20,3)}= DB
+(  1.000000e+07Hz, -1.248758e+02, -1.373971e+02)
+(  1.487179e+07Hz, -9.831399e+01, -1.647281e+02)
+(  1.974359e+07Hz, -7.673566e+01, -2.026127e+02)
+(  2.461538e+07Hz, -5.898226e+01, -2.906518e+02)
+(  2.948718e+07Hz, -5.542440e+01, -3.666485e+02)
+(  3.435897e+07Hz, -5.204910e+01, -4.009490e+02)
+(  3.923077e+07Hz, -4.814977e+01, -4.271950e+02)
+(  4.410256e+07Hz, -4.426072e+01, -4.514100e+02)
+(  4.897436e+07Hz, -4.063346e+01, -4.755494e+02)
+(  5.384615e+07Hz, -3.749934e+01, -5.003303e+02)
+(  5.871795e+07Hz, -3.516924e+01, -5.256223e+02)
+(  6.358974e+07Hz, -3.433887e+01, -5.509590e+02)
+(  6.846154e+07Hz, -3.971774e+01, -5.765977e+02)
+(  7.333333e+07Hz, -2.496027e+01, -4.260244e+02)
+(  7.820513e+07Hz, -2.540060e-01, -5.317362e+02)
+(  8.307692e+07Hz, -6.358120e+00, -6.335796e+02)
+(  8.794872e+07Hz, -5.894279e+00, -6.719727e+02)
+(  9.282051e+07Hz, -4.063864e+00, -7.129969e+02)
+(  9.769231e+07Hz, -2.367660e+00, -7.603597e+02)
+(  1.025641e+08Hz, -2.098602e+00, -8.143919e+02)
+(  1.074359e+08Hz, -4.094614e+00, -8.636479e+02)
+(  1.123077e+08Hz, -6.557734e+00, -8.998592e+02)
+(  1.171795e+08Hz, -7.759301e+00, -9.295624e+02)
+(  1.220513e+08Hz, -6.159604e+00, -9.703161e+02)
+(  1.269231e+08Hz, -1.040475e+01, -1.077742e+03)
+(  1.317949e+08Hz, -2.627115e+01, -1.123641e+03)
+(  1.366667e+08Hz, -4.503397e+01, -9.675219e+02)
+(  1.415385e+08Hz, -3.255698e+01, -9.893598e+02)
+(  1.464103e+08Hz, -3.059532e+01, -1.012566e+03)
+(  1.512821e+08Hz, -3.081422e+01, -1.036661e+03)
+(  1.561538e+08Hz, -3.231825e+01, -1.058931e+03)
+(  1.610256e+08Hz, -3.453111e+01, -1.077318e+03)
+(  1.658974e+08Hz, -3.699828e+01, -1.091740e+03)
+(  1.707692e+08Hz, -3.947129e+01, -1.103061e+03)
+(  1.756410e+08Hz, -4.184769e+01, -1.112161e+03)
+(  1.805128e+08Hz, -4.409577e+01, -1.119694e+03)
+(  1.853846e+08Hz, -4.621280e+01, -1.126103e+03)
+(  1.902564e+08Hz, -4.820666e+01, -1.131686e+03)
+(  1.951282e+08Hz, -5.008836e+01, -1.136645e+03)
+(  2.000000e+08Hz, -5.186916e+01, -1.141123e+03)

*S21 FREQ DB PHASE
E21 21 22 FREQ {V(10,3)}= DB
+(  1.000000e+07Hz, -1.248758e+02, -1.373971e+02)
+(  1.487179e+07Hz, -9.831399e+01, -1.647281e+02)
+(  1.974359e+07Hz, -7.673566e+01, -2.026127e+02)
+(  2.461538e+07Hz, -5.898226e+01, -2.906518e+02)
+(  2.948718e+07Hz, -5.542440e+01, -3.666485e+02)
+(  3.435897e+07Hz, -5.204910e+01, -4.009490e+02)
+(  3.923077e+07Hz, -4.814977e+01, -4.271950e+02)
+(  4.410256e+07Hz, -4.426072e+01, -4.514100e+02)
+(  4.897436e+07Hz, -4.063346e+01, -4.755494e+02)
+(  5.384615e+07Hz, -3.749934e+01, -5.003303e+02)
+(  5.871795e+07Hz, -3.516924e+01, -5.256223e+02)
+(  6.358974e+07Hz, -3.433887e+01, -5.509590e+02)
+(  6.846154e+07Hz, -3.971774e+01, -5.765977e+02)
+(  7.333333e+07Hz, -2.496027e+01, -4.260244e+02)
+(  7.820513e+07Hz, -2.540060e-01, -5.317362e+02)
+(  8.307692e+07Hz, -6.358120e+00, -6.335796e+02)
+(  8.794872e+07Hz, -5.894279e+00, -6.719727e+02)
+(  9.282051e+07Hz, -4.063864e+00, -7.129969e+02)
+(  9.769231e+07Hz, -2.367660e+00, -7.603597e+02)
+(  1.025641e+08Hz, -2.098602e+00, -8.143919e+02)
+(  1.074359e+08Hz, -4.094614e+00, -8.636479e+02)
+(  1.123077e+08Hz, -6.557734e+00, -8.998592e+02)
+(  1.171795e+08Hz, -7.759301e+00, -9.295624e+02)
+(  1.220513e+08Hz, -6.159604e+00, -9.703161e+02)
+(  1.269231e+08Hz, -1.040475e+01, -1.077742e+03)
+(  1.317949e+08Hz, -2.627115e+01, -1.123641e+03)
+(  1.366667e+08Hz, -4.503397e+01, -9.675219e+02)
+(  1.415385e+08Hz, -3.255698e+01, -9.893598e+02)
+(  1.464103e+08Hz, -3.059532e+01, -1.012566e+03)
+(  1.512821e+08Hz, -3.081422e+01, -1.036661e+03)
+(  1.561538e+08Hz, -3.231825e+01, -1.058931e+03)
+(  1.610256e+08Hz, -3.453111e+01, -1.077318e+03)
+(  1.658974e+08Hz, -3.699828e+01, -1.091740e+03)
+(  1.707692e+08Hz, -3.947129e+01, -1.103061e+03)
+(  1.756410e+08Hz, -4.184769e+01, -1.112161e+03)
+(  1.805128e+08Hz, -4.409577e+01, -1.119694e+03)
+(  1.853846e+08Hz, -4.621280e+01, -1.126103e+03)
+(  1.902564e+08Hz, -4.820666e+01, -1.131686e+03)
+(  1.951282e+08Hz, -5.008836e+01, -1.136645e+03)
+(  2.000000e+08Hz, -5.186916e+01, -1.141123e+03)

*S22 FREQ DB PHASE
E22 22 3 FREQ {V(20,3)}= DB
+(  1.000000e+07Hz,  1.633257e-07, -1.859873e+01)
+(  1.487179e+07Hz, -1.597472e-07, -3.368599e+01)
+(  1.974359e+07Hz, -9.840549e-08, -6.829764e+01)
+(  2.461538e+07Hz, -5.748843e-06, -2.027281e+02)
+(  2.948718e+07Hz, -1.209271e-05, -3.137855e+02)
+(  3.435897e+07Hz, -2.686288e-05, -3.426102e+02)
+(  3.923077e+07Hz, -6.619051e-05, -3.559304e+02)
+(  4.410256e+07Hz, -1.626503e-04, -3.646130e+02)
+(  4.897436e+07Hz, -3.750315e-04, -3.714149e+02)
+(  5.384615e+07Hz, -7.720713e-04, -3.773802e+02)
+(  5.871795e+07Hz, -1.321131e-03, -3.830562e+02)
+(  6.358974e+07Hz, -1.599127e-03, -3.888868e+02)
+(  6.846154e+07Hz, -4.639695e-04, -3.955734e+02)
+(  7.333333e+07Hz, -1.388161e-02, -4.057551e+02)
+(  7.820513e+07Hz, -1.245578e+01, -4.419690e+02)
+(  8.307692e+07Hz, -1.142468e+00, -3.983505e+02)
+(  8.794872e+07Hz, -1.292324e+00, -4.097393e+02)
+(  9.282051e+07Hz, -2.163078e+00, -4.176053e+02)
+(  9.769231e+07Hz, -3.764828e+00, -4.193838e+02)
+(  1.025641e+08Hz, -4.165672e+00, -4.076855e+02)
+(  1.074359e+08Hz, -2.143343e+00, -4.074397e+02)
+(  1.123077e+08Hz, -1.084156e+00, -4.178506e+02)
+(  1.171795e+08Hz, -7.962687e-01, -4.296447e+02)
+(  1.220513e+08Hz, -1.204024e+00, -4.416736e+02)
+(  1.269231e+08Hz, -4.148459e-01, -4.461929e+02)
+(  1.317949e+08Hz, -1.026073e-02, -4.669521e+02)
+(  1.366667e+08Hz, -1.361528e-04, -4.892508e+02)
+(  1.415385e+08Hz, -2.411138e-03, -5.172082e+02)
+(  1.464103e+08Hz, -3.788042e-03, -5.519999e+02)
+(  1.512821e+08Hz, -3.601989e-03, -5.908887e+02)
+(  1.561538e+08Hz, -2.547212e-03, -6.276516e+02)
+(  1.610256e+08Hz, -1.529976e-03, -6.577430e+02)
+(  1.658974e+08Hz, -8.674572e-04, -6.807399e+02)
+(  1.707692e+08Hz, -4.901623e-04, -6.981937e+02)
+(  1.756410e+08Hz, -2.836349e-04, -7.117446e+02)
+(  1.805128e+08Hz, -1.694495e-04, -7.226059e+02)
+(  1.853846e+08Hz, -1.034247e-04, -7.315943e+02)
+(  1.902564e+08Hz, -6.587183e-05, -7.392507e+02)
+(  1.951282e+08Hz, -4.251059e-05, -7.459375e+02)
+(  2.000000e+08Hz, -2.798303e-05, -7.519027e+02)

.ENDS
