* loop filter for pll
* in: d_up d_down digital data
* out: vout, vco control voltage
* using transistors to switch current
* according to http://www.uwe-kerwien.de/pll/pll-schleifenfilter.htm
* digital input d_Un d_D
* anlog output vout


.subckt loopf d_Un d_D vout

.param initcond=2.5

vdd dd 0 dc 'vcc'
vss ss 0 dc 0

* "driver" circuit, digital in, analog out
abridge-f1 [d_Un d_D] [u1n d1] dac1
.model dac1 dac_bridge(out_low = 0 out_high = 'vcc' out_undef = 'vcc/2'
+ input_load = 5.0e-12 t_rise = 1e-10
+ t_fall = 1e-10)

* uses BSIM3 model parameters from pll-xspice_2.cir
* transistors as switches
mnd  dra d1  ss  ss  n1  w=12u  l=0.35u  AS=24p AD=24p PS=28u PD=28u
mpd  dra u1n  dd  dd  p1  w=24u l=0.35u  AS=48p AD=48p PS=52u PD=52u

*** passive filter elements ***
*third order filter
*parameters absolutely _not_ optimised
*better check
* http://www.national.com/assets/en/boards/deansbook4.pdf
*to do so
.ic v(vout)='initcond' v(c1)='initcond' v(dra)='initcond' v(int1)='initcond' v(u1n)='vcc' v(d1)=0
R1 dra int1 300
R2 int1 c1 200
C1 c1 0 10n
C2 int1 0 5n
R3 int1 vout 50
C3 vout 0 0.5n

*second order filter
*parameters not optimized
*.ic v(vout)='initcond' v(c1)='initcond' v(dra)='initcond' v(u1n)='vcc' v(d1)=0
*R1 dra vout 300
*R2 vout c1 200
*C1 c1 0 10n
*C2 vout 0 5n

.ends loopf
